US07504404B2
A stirred mixture of commercially available 2-amino-5-cyano-pyridine [CAS-No. 4214-73-7] (5.0 g, 42 mmol), hydroxylamine hydrochloride (17.5 g, 0.25 mol) and sodium carbonate (31.1 g, 0.29 mol) in water (95 ml) and ethanol (21 ml) was heated under reflux conditions for 6 h. The reaction mixture was poured into water (150 ml) and extracted with ethyl acetate (4×100 ml). The combined organic layers were washed with brine (150 ml), dried (MgSO4) and evaporated. The crude product was purified by column chromatography on silica gel (ethyl acetate/MeOH/NH4OH 4:1:0.5) and crystallization (ethyl acetate/MeOH/hexane) to yield 6-amino-nicotinamide (1.39 g) and the title compound (1.42 g, 22%) as an off-white solid. MS (EI) 152.1 [(M)+]; mp 300° C.

reactant | 2-amino-5-cyano-pyridine | 42 mmol, 5.0 g | NC1=NC=C(C=C1)C#N | C6H5N3
reactant | hydroxylamine hydrochloride | 0.25 mol, 17.5 g | Cl.NO
reactant | sodium carbonate | 0.29 mol, 31.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 95 ml | O | H2O
solvent | ethanol | 21 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 6-amino-nicotinamide | 1.39 g | NC1=NC=C(C(=O)N)C=C1 | C6H7N3O
